US09447030B2
To a solution of 5-(cyclopent-1-en-1-yl)-2-nitroaniline (0.13 g, 0.61 mmol, 1.0 equiv.) in dichloromethane were added triethylamine (0.68 mL, 4.90 mmol, 8.0 equiv.) and triphosgene (0.18 g, 0.61 mmol, 1.0 equiv.) at 0° C. The mixture was warmed to room temperature and stirred for 3 h at room temperature. Triethylamine (0.17 mL, 1.22 mmol, 2.0 equiv.) and N-methylpropan-1-amine (0.07 g, 0.92 mmol, 1.5 equiv.) were added slowly to the reaction mixture. The reaction mixture was slowly warmed to 50° C. and stirred for 2 h. The mixture was diluted with dichloromethane, washed with water and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give crude 3-(5-(cyclopent-1-en-1-yl)-2-nitrophenyl)-1-methyl-1-propylurea (0.14 g, 76% crude yield) which was used in the next step without further purification.

reactant | 5-(cyclopent-1-en-1-yl)-2-nitroaniline | 0.61 mmol, 0.13 g, 1.0 equiv. | C1(=CCCC1)C=1C=CC(=C(N)C1)[N+](=O)[O-] | C11H12N2O2
reactant | triethylamine | 4.90 mmol, 0.68 mL, 8.0 equiv. | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.61 mmol, 0.18 g, 1.0 equiv. | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Triethylamine | 1.22 mmol, 0.17 mL, 2.0 equiv. | C(C)N(CC)CC | C6H15N
reactant | N-methylpropan-1-amine | 0.92 mmol, 0.07 g, 1.5 equiv. | CNCCC | C4H11N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(5-(cyclopent-1-en-1-yl)-2-nitrophenyl)-1-methyl-1-propylurea | 0.14 g | C1(=CCCC1)C=1C=CC(=C(C1)NC(N(CCC)C)=O)[N+](=O)[O-] | C16H21N3O3
